US04463177
Hexahydro-3-ethyl-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one
A solution of 3-(2-chloro-3-oxocyclohex-1-enyl)-3-ethyl-hexahydro-1-methylazepin-2-one (5.68 g) in dichloromethane (60 ml) was treated with 48% HBr in acetic acid (2 ml). After 12 hours the mixture was treated with excess aqueous ammonia, the organic solvent removed under reduced pressure and the resulting solid removed by filtration to give the title compound, m.p. 178°-80° C. (EtOAc).

reactant | 3-(2-chloro-3-oxocyclohex-1-enyl)-3-ethyl-hexahydro-1-methylazepin-2-one | 5.68 g | ClC1=C(CCCC1=O)C1(C(N(CCCC1)C)=O)CC | C15H22ClNO2
reactant | HBr | Br | BrH
reactant | ammonia | N | H3N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Hexahydro-3-ethyl-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | C(C)C1(C(N(CCCC1)C)=O)C1=CC(=CC=C1)O | C15H21NO2
